US07517994B2
Step C: Preparation of 5-bromo-4-(4-bromo-2-fluorophenylamino)-N-(cyclopropylmethoxy)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide:
The title compound was prepared in 40% yield by the procedure described in Example 166 (step I) using methyl 5-bromo-4-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylate (31 mg, 0.071 mmol) and O-cyclopropylmethyl-hydroxylamine (20 mg, 0.23 mmol). MS APCI (−) m/z 487, 489, 491 (M−1, Br pattern) detected; 1H NMR (400 MHz, CD3OD) δ 7.38 (dd, 1H), 7.31 (dd, 1H), 7.05 (t, 1H), 3.82 (s, 3H), 3.65 (d, 2H), 1.13 (m, 1H), 0.58 (q, 2H), 0.31 (q, 2H).

reactant | methyl 5-bromo-4-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxylate | 0.071 mmol, 31 mg | BrC1=C(C(=NN(C1=O)C)C(=O)OC)NC1=C(C=C(C=C1)Br)F | C13H10Br2FN3O3
reactant | O-cyclopropylmethyl-hydroxylamine | 0.23 mmol, 20 mg | C1(CC1)CON | C4H9NO
product | 5-bromo-4-(4-bromo-2-fluorophenylamino)-N-(cyclopropylmethoxy)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide | 40% yield | BrC1=C(C(=NN(C1=O)C)C(=O)NOCC1CC1)NC1=C(C=C(C=C1)Br)F | C16H15Br2FN4O3
